US07855297B2
By the reaction and treatment in the same manner as in Example 106 using N-[(1-ethylpyrazol-4-yl)methyl]-6-hydroxy-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.42 g) and 2-chloro-N,N-dimethylethylamine hydrochloride (0.22 g) as starting materials, 6-[2-(dimethylamino)ethoxy]-N-[(1-ethylpyrazol-4-yl)methyl]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.19 g) was obtained.

reactant | N-[(1-ethylpyrazol-4-yl)methyl]-6-hydroxy-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.42 g | C(C)N1N=CC(=C1)CN(C(=O)C1CCCC2=CC(=CC=C12)O)C1=CC=C(C=C1)C(C)C | C26H31N3O2
reactant | 2-chloro-N,N-dimethylethylamine hydrochloride | 0.22 g | Cl.ClCCN(C)C
product | 6-[2-(dimethylamino)ethoxy]-N-[(1-ethylpyrazol-4-yl)methyl]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.19 g | CN(CCOC=1C=C2CCCC(C2=CC1)C(=O)N(C1=CC=C(C=C1)C(C)C)CC=1C=NN(C1)CC)C | C30H40N4O2
